*$
* BEGIN ANSOFT HEADER
* node 1    Port1:1
* node 2    Port2:1
*   Format: PSpice
*   Topckt: IHP_4nH
*     Date: Tue Feb 10 01:13:05 2026
*    Notes: Frequency range: 0 to 1.5e+010 Hz, 301 points
*         : Maximum number of poles: 10000
*         : S-Matrix fitting error tolerance: 0.005
*         : Causality check tolerance: auto
*         : Passivity enforcement: off
*         : Causality enforcement: off
*         : Fitting method: TWA
*         : Matrix fitting: By entire matrix
*         : Ensure Z-parameter accuracy: on
*         : Relative error control: off
*         : Common ground option: on
*         : Final fitting error: 0.000123148
*         : Final model order: 20
* END ANSOFT HEADER

.subckt IHP_4nH 1 2
Vam1 1 n2 dc 0
Rport1 n2 0 50
Vam2 2 n4 dc 0
Rport2 n4 0 50

Fi1 0 ni1 Vam1 50
Gi1 0 ni1 1 0 1
Rt1 ni1 0 1
Fi2 0 ni2 Vam2 50
Gi2 0 ni2 2 0 1
Rt2 ni2 0 1

Ca1 ns1 0 1e-012
Ra1 ns1 0 65383.3304115
Ca2 ns2 0 1e-012
Ra2 ns2 0 700.985908422
Ca3 ns3 0 1e-012
Ca4 ns4 0 1e-012
Ra3 ns3 0 3203.97806018
Ra4 ns4 0 3203.97806018
Ga3 ns3 0 ns4 0 -0.00360543294404
Ga4 ns4 0 ns3 0 0.00360543294404
Ca5 ns5 0 1e-012
Ra5 ns5 0 229.153207458
Ca6 ns6 0 1e-012
Ra6 ns6 0 75.0246573467
Ca7 ns7 0 1e-012
Ra7 ns7 0 27.5143222557
Ca8 ns8 0 1e-012
Ca9 ns9 0 1e-012
Ra8 ns8 0 6.38396750515
Ra9 ns9 0 6.38396750515
Ga8 ns8 0 ns9 0 -0.162554117523
Ga9 ns9 0 ns8 0 0.162554117523
Ca10 ns10 0 1e-012
Ra10 ns10 0 3.68897766136
Ca11 ns11 0 1e-012
Ra11 ns11 0 65383.3304115
Ca12 ns12 0 1e-012
Ra12 ns12 0 700.985908422
Ca13 ns13 0 1e-012
Ca14 ns14 0 1e-012
Ra13 ns13 0 3203.97806018
Ra14 ns14 0 3203.97806018
Ga13 ns13 0 ns14 0 -0.00360543294404
Ga14 ns14 0 ns13 0 0.00360543294404
Ca15 ns15 0 1e-012
Ra15 ns15 0 229.153207458
Ca16 ns16 0 1e-012
Ra16 ns16 0 75.0246573467
Ca17 ns17 0 1e-012
Ra17 ns17 0 27.5143222557
Ca18 ns18 0 1e-012
Ca19 ns19 0 1e-012
Ra18 ns18 0 6.38396750515
Ra19 ns19 0 6.38396750515
Ga18 ns18 0 ns19 0 -0.162554117523
Ga19 ns19 0 ns18 0 0.162554117523
Ca20 ns20 0 1e-012
Ra20 ns20 0 3.68897766136

Gb1_1 ns1 0 ni1 0 1.52944182211e-005
Gb2_1 ns2 0 ni1 0 0.00142656220045
Gb3_1 ns3 0 ni1 0 0.00363245158563
Gb5_1 ns5 0 ni1 0 0.00436389265981
Gb6_1 ns6 0 ni1 0 0.0133289512457
Gb7_1 ns7 0 ni1 0 0.0363447077019
Gb8_1 ns8 0 ni1 0 0.313499798059
Gb10_1 ns10 0 ni1 0 0.271077813909
Gb11_2 ns11 0 ni2 0 1.52944182211e-005
Gb12_2 ns12 0 ni2 0 0.00142656220045
Gb13_2 ns13 0 ni2 0 0.00363245158563
Gb15_2 ns15 0 ni2 0 0.00436389265981
Gb16_2 ns16 0 ni2 0 0.0133289512457
Gb17_2 ns17 0 ni2 0 0.0363447077019
Gb18_2 ns18 0 ni2 0 0.313499798059
Gb20_2 ns20 0 ni2 0 0.271077813909

Gc1_1 0 n2 ns1 0 1.76267381551e-005
Gc1_2 0 n2 ns2 0 -0.000151220806042
Gc1_3 0 n2 ns3 0 -1.68253410247e-007
Gc1_4 0 n2 ns4 0 -1.25380721891e-007
Gc1_5 0 n2 ns5 0 0.000203537591402
Gc1_6 0 n2 ns6 0 0.000362637752056
Gc1_7 0 n2 ns7 0 0.0362599312468
Gc1_8 0 n2 ns8 0 0.0563014516303
Gc1_9 0 n2 ns9 0 -0.0108921884879
Gc1_10 0 n2 ns10 0 -0.111740397354
Gc1_11 0 n2 ns11 0 -1.75711441108e-005
Gc1_12 0 n2 ns12 0 -0.000216183270575
Gc1_13 0 n2 ns13 0 -2.71782132946e-007
Gc1_14 0 n2 ns14 0 -1.18255536459e-007
Gc1_15 0 n2 ns15 0 -0.000347724397458
Gc1_16 0 n2 ns16 0 -0.000466583986875
Gc1_17 0 n2 ns17 0 -0.0361722765998
Gc1_18 0 n2 ns18 0 -0.0612010323038
Gc1_19 0 n2 ns19 0 0.0107744519884
Gc1_20 0 n2 ns20 0 0.0889461400398
Gd1_1 0 n2 ni1 0 -0.00963393825744
Gd1_2 0 n2 ni2 0 0.00170840182023
Gc2_1 0 n4 ns1 0 -1.75711441108e-005
Gc2_2 0 n4 ns2 0 -0.000216183270575
Gc2_3 0 n4 ns3 0 -2.71782132942e-007
Gc2_4 0 n4 ns4 0 -1.18255536462e-007
Gc2_5 0 n4 ns5 0 -0.000347724397458
Gc2_6 0 n4 ns6 0 -0.000466583986875
Gc2_7 0 n4 ns7 0 -0.0361722765998
Gc2_8 0 n4 ns8 0 -0.0612010323038
Gc2_9 0 n4 ns9 0 0.0107744519884
Gc2_10 0 n4 ns10 0 0.0889461400398
Gc2_11 0 n4 ns11 0 1.75943656497e-005
Gc2_12 0 n4 ns12 0 -0.000152672672756
Gc2_13 0 n4 ns13 0 -2.11161877367e-007
Gc2_14 0 n4 ns14 0 -1.35138356853e-007
Gc2_15 0 n4 ns15 0 0.000202282418477
Gc2_16 0 n4 ns16 0 0.000355783181274
Gc2_17 0 n4 ns17 0 0.0361772381767
Gc2_18 0 n4 ns18 0 0.0548302977393
Gc2_19 0 n4 ns19 0 -0.010837348132
Gc2_20 0 n4 ns20 0 -0.110555514531
Gd2_1 0 n4 ni1 0 0.00170840182023
Gd2_2 0 n4 ni2 0 -0.010013828236
.ends
